US08431581B2
Preparation of 3-(4-fluoro-2-methylsulfanyl-phenyl)-propionaldehyde
To a solution of 3-(4-fluoro-2-methylsulfanyl-phenyl)-propionic acid methyl ester (1 g, 4.3 mmol) in dry toluene was added DIBAL-H (5.2 ml in toluene, 1N) drop-wise at −78° C. After stirring at this temperature for 1 h, methanol (5 ml) was added dropwise to quench the reaction. The mixture was warmed to room temperature and diluted with EA. The mixture was washed with brine, dried and concentrated. The residue was purified by column chromatography to give the titled compound (804 mg, yield 92%)

reactant | 3-(4-fluoro-2-methylsulfanyl-phenyl)-propionic acid methyl ester | 4.3 mmol, 1 g | COC(CCC1=C(C=C(C=C1)F)SC)=O | C11H13FO2S
reactant | DIBAL-H | 1N, 5.2 ml | CC(C)C[AlH]CC(C)C
reactant | methanol | 5 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-(4-fluoro-2-methylsulfanyl-phenyl)-propionaldehyde | 804 mg, yield 92% | FC1=CC(=C(C=C1)CCC=O)SC | C10H11FOS
